US06235731B1
3) Synthesis of N-(trans-4-bromomethyl-1-cyclohexylmethyl)-N-(tert-butoxycarbonyl)amine
To a solution of 5.00 g (20.55 mM) of trans-4-[N-(tert-butoxycarbonyl)aminomethyl]cyclohexane-1-methanol and 6.42 g (24.48 mM) of triphenylphosphine in methylene chloride (30 ml) was added 13.63 g (41.1 mM) of carbon tetrabromide at 0° C. and the mixture was stirred at room temperature for 20 hours. This reaction mixture was purified by column chromatography (ethyl acetate-hexane: 10%) to provide the title compound as white solid.

reactant | trans-4-[N-(tert-butoxycarbonyl)aminomethyl]cyclohexane-1-methanol | 20.55 mM, 5.00 g | C(C)(C)(C)OC(=O)NC[C@@H]1CC[C@H](CC1)CO | C13H25NO3
reactant | triphenylphosphine | 24.48 mM, 6.42 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 41.1 mM, 13.63 g | C(Br)(Br)(Br)Br | CBr4
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | N-(trans-4-bromomethyl-1-cyclohexylmethyl)-N-(tert-butoxycarbonyl)amine | BrC[C@@H]1CC[C@H](CC1)CNC(=O)OC(C)(C)C | C13H24BrNO2
